US07713994B2
1H-Indole-6-carbaldehyde O-methyl-oxime
An amount of 1H-Indole-6-carbaldehyde (50 mg, 0.34 mmol) is added to pyridine (2.0 ml) at room temperature, followed by addition of methoxylamine hydrogen chloride (31.6 mg, 0.38 mmol). The mixture is stirred at ambient temperature for 24 h, and 10 mL of water is added. After the solvents were evaporated, the residue is dissolved 10 mL of anhydrous ether, washed successively with 10 mL of aqueous sodium bicarbonate, 10 mL of sodium bisulfite, and 10 mL of brine. Dried over magnesium sulfate, evaporated to give a white solid (49 mg, 0.281 mmol). MS (ESI) m/z 176.3 (M+1)

reactant | 1H-Indole-6-carbaldehyde | 0.34 mmol, 50 mg | N1C=CC2=CC=C(C=C12)C=O | C9H7NO
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
reactant | methoxylamine hydrogen chloride | 0.38 mmol, 31.6 mg | Cl.O(C)N
solvent | water | 10 mL | O | H2O
product | 1H-Indole-6-carbaldehyde O-methyl-oxime | 0.281 mmol, 49 mg | CON=CC1=CC=C2C=CNC2=C1 | C10H10N2O
